US06982348B2
1,1-dimethylethyl (1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-((5-(trifluoromethyl)-2-furanyl)methyl)ethylcarbamate
To 1,1-dimethylethyl (4RS,5SR)-5-(4-fluorophenyl)-2-oxo-4-((5-(trifluoromethyl)-2-furanyl)methyl)-1,3-oxazolidine-3-carboxylate (1.91 g, 4.45 mmol) in methanol (10.7 ml) was added a methanol solution (10.7 ml, 5.35 mmol) of 0.5N sodium hydroxide under ice-cooling and the mixture was stirred at room temperature for 10 min. Water (50 ml) was added to the reaction solution and the mixture was extracted with ethyl acetate (50 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give the title compound (1.79 g, 100%).

reactant | 1,1-dimethylethyl (4RS,5SR)-5-(4-fluorophenyl)-2-oxo-4-((5-(trifluoromethyl)-2-furanyl)methyl)-1,3-oxazolidine-3-carboxylate | 4.45 mmol, 1.91 g | FC1=CC=C(C=C1)C1C(N(C(O1)=O)C(=O)OC(C)(C)C)CC=1OC(=CC1)C(F)(F)F | C20H19F4NO5
reactant | sodium hydroxide | 0.5N | [OH-].[Na+]
reactant | Water | 50 ml | O | H2O
solvent | methanol | 10.7 ml | CO | CH4O
solvent | methanol | 5.35 mmol, 10.7 ml | CO | CH4O
product | 1,1-dimethylethyl (1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-((5-(trifluoromethyl)-2-furanyl)methyl)ethylcarbamate | 1.79 g, 100% | FC1=CC=C(C=C1)C(C(CC=1OC(=CC1)C(F)(F)F)NC(OC(C)(C)C)=O)O | C19H21F4NO4
